US07951954B2
b) [3-(2-Hydroxy-ethyl)-benzyl]-[2-(2-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
A solution of [3-({tert-butoxycarbonyl-[2-(2-hydroxy-phenyl)-ethyl]-amino}-methyl)-phenyl]-acetic acid methyl ester (560 mg) in anhydrous tetrahydrofuran (20 mL) was treated with lithium borohydride (62 mg) and the mixture was heated at 60° C. for 5 hours under nitrogen. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and saturated aqueous brine, the organic layer was separated, dried and the solvent evaporated under reduced pressure. The residue was purified on silica, eluting with 40% ethyl acetate in isohexane to yield the sub-titled compound (500 mg).

reactant | [3-({tert-butoxycarbonyl-[2-(2-hydroxy-phenyl)-ethyl]-amino}-methyl)-phenyl]-acetic acid methyl ester | 560 mg | COC(CC1=CC(=CC=C1)CN(CCC1=C(C=CC=C1)O)C(=O)OC(C)(C)C)=O | C23H29NO5
reactant | lithium borohydride | 62 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [3-(2-Hydroxy-ethyl)-benzyl]-[2-(2-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(N(CCC1=C(C=CC=C1)O)CC1=CC(=CC=C1)CCO)=O | C22H29NO4
